US06972297B2
(a) Ethyl 5-aminonicotinate
5-Aminonicotinic acid (2.2 g) (Bachman and Micucci, J. Amer. Chem. Soc. 70 (1948) 2381) in ethanol (20 ml) was ice-cooled, saturated with HCl gas and refluxed 4 hours. The mixture was concentrated to low volume and partitioned between EtOAc (100 ml) and saturated NaHCO3 solution (100 ml). The organic phase was washed with further aqueous NaHCO3, dried and evaporated to leave the title compound as a white solid (1.34 g). M.S. (+ve ion chemical ionisation) m/z 167 (MH+,100%).

reactant | 5-Aminonicotinic acid | 2.2 g | NC=1C=NC=C(C(=O)O)C1 | C6H6N2O2
reactant | HCl | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 5-aminonicotinate | 1.34 g | NC=1C=NC=C(C(=O)OCC)C1 | C8H10N2O2
